Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid
 
Attending: ___.
 
Chief Complaint:
chest pain
Hip pain 
 
Major Surgical or Invasive Procedure:
None at this visit

 
History of Present Illness:
___ year old female with recurrent high grade serous ovarian
cancer s/p ___ screw fixation of left femoral neck stress
fracture (per imaging not clear fracture was pathologic) 
presents
with persistent left hip and pleuritic chest pain. This is her
third ED visit for this in 2 days. 

She was last seen by oncology ___. She had disease recurrence
in ___ of this year, and after resection of pelvic nodule in
___, started carboplatin q4 weeks in ___, but this was limited
by thrombocytopenia, and ultimately she has been on treatment
break for now (last dose ___ was ___ due to marked 
bone
marrow effects of cumulative chemo.  More recently she is s/p
pinning of a left femoral neck stress fracture on ___,
discharged ___ to rehab. She was discharged from rehab ___ and
presented to our ED that day ___ reporting fever and mildly
increased pain in left hip. She had no objective fever in the 
ED.
Ortho was consulted for c/f erythema at incision site and they
felt that there was no erythema, incisions were c/d/I, and range
of motion was equal bilaterally. They did not feel any signs 
were
present of post operative infection. XR of the hip showed no
fracture or hardware complication.  she reported chest pain
during that admission and had a chest CT to rule out PE that was
negative. ___ also showed no DVT. WBC was 4.7, hct was 28, plts
139. The ED team felt that UA was c/w UTI so she was started on
macrobid. She was discharged ___. Urine culture at this point
has come back with mixed flora. This morning, immediately after
discharge from our ED, she went to ___ ED, 
where
reportedly (see OMR note PA contacted our ___ dept) it was felt
she was having likely somatization, reportedly CXR clear, no
acute process found. This evening she re-presented to our ED
after leaving ___ ED.

She describes to me on this interview that at rehab she was
having pain, but the same pain got worse at home. It feels like 
a
sharp stabbing pain in the left hip. She has been walking with
cane and doing stairs slowly, but still having persistent pain 
in
the hip and is concerned about it. Ever since she left rehab she
feels a substernal stabbing chest pain - states this has been
going on for ___ days. She's actually not sure which day she 
left
rehab though other OMR notes suggest it was just ~3 days ago. 
She
states that "so many things have been going on" and she just
can't remember which day she left rehab. She also reports that
she has burning pain with urination. This pain with urination
started yesterday in the ED - she states she didn't feel the 
pain
until she was told in the ED that she has a UTI, but then she
started noticing the pain. She feels this pain has improved 
after
starting the antibiotic. She has been taking only one morphine
pill (15 mg per day). She isn't sure why she isn't taking the
morphine more often if she is having such bad pain. She also
stopped taking the standing Tylenol that she was discharged 
with.
All other 10 point ROS neg.

 
Past Medical History:
___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ possible surgical resection
- ___ C1D1 Carboplatin
- ___: C2D1 Carboplatin

PAST MEDICAL HISTORY: 
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FAMILY HISTORY (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
Admit physical exam

PHYSICAL EXAM:
VITAL SIGNS: 98.3 ___ 18 97%RA
General:  NAD
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
GI:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO: Oriented x3. Cranial nerves II-XII are within normal
limits excluding visual acuity which was not assessed, no
nystagmus; strength is ___ of the proximal and distal upper and
lower extremities; reflexes are 2+ of the biceps, triceps,
patellar, and Achilles tendons, toes are down bilaterally; gait
is normal, coordination is intact.

 
Pertinent Results:
___ 04:44AM BLOOD WBC-3.1* RBC-2.87* Hgb-8.4* Hct-26.6* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-14.1 RDWSD-48.0* Plt ___
___ 04:44AM BLOOD Plt ___
___ 04:44AM BLOOD Glucose-86 UreaN-9 Creat-0.8 Na-143 K-3.9 
Cl-103 HCO3-31 AnGap-___ year old female with recurrent high grade serous ovarian 
cancer s/p ___ screw fixation of left femoral neck stress 
fracture (per imaging not clear fracture was pathologic) 
presents with persistent left hip and pleuritic chest pain, lab 
testing in the ER failed to reveal any organic basis behind her 
pain and her hospitalization is likely from anxiety issues and 
forgetting to take her medications as prescribed. 

# inability to care for self at home
# Anxiety/coping
     Recent Rehab stay for around 9 days
     3 ER visits in 48 hours post rehab Discharge.
     Only issue at this time is pain control due to non 
adherence with medications
     Suspect anxiety being an issue for her.
     Pt has scheduled Tylenol and PRN morphine now.
     visiting OT arranged for her.
     Had a family meeting. explained keeping her in hospital is 
likely to harm pt by exposure to infections and there isn't much 
we are doing here. Family agrees (Mom ___

# Left hip pain 

     s/p ___ screw fixation of left femoral neck stress
fracture 
     Evaluated by ortho, per ortho it is c/w expected post op
pain
     Activity: Partial weightbearing of LLE
     Anticoagulation: Continue postoperative lovenox -changed
dose from 30MG Lovenox Q daily to 40mg Q daily for DVT proph.

# Pleuritic chest pain - pt with CTA ___ for this without PE 
or
acute process. No dyspnea, satting well. No leukocytosis/fever 
to
suggest infectious process. Anxiety may be significant
contributor.

# Ovarian serous cancer - recurrent. On ___, she underwent a
diagnostic laparoscopy and resection of pelvic nodule given
recurrence. Unfortunately, her disease was not limited to the
pelvic nodule. She has multiple lesions suggestive of more
disease on her pelvic wall, bowel, diaphragm, and peritoneal
surfaces. Currently on carboplatin break due to bone marrow
suppression with cumulative chemo.

# Anti-C antibody - prior type and screen showing anti-C 
antibody
and that this is most likely due to recent transfusion of C 
antigen-positive cells. She should receive C-antigen negative
products for all red cell transfusions to prevent transfusion
reaction and she has a wallet card for this.

# Possible UTI - received 3 days of Macrobid while here. Last 
day ___

# Anxiety - SW consult, cont home duloxetine, abilify

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Amitriptyline 20 mg PO QHS insomnia 
3. ARIPiprazole 4 mg PO QPM 
4. Calcium Carbonate 500 mg PO QID:PRN abd pain 
5. Diazepam 5 mg PO Q8H:PRN muscle spasm 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. DULoxetine 120 mg PO DAILY 
8. Enoxaparin Sodium 30 mg SC QPM 
Start: ___, First Dose: Next Routine Administration Time 
9. Fentanyl Patch 25 mcg/h TD Q72H 
10. Gabapentin 600 mg PO QHS 
11. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line 
flush 
12. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
13. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
14. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
15. LORazepam 0.5 mg PO QHS:PRN insomnia 
16. Morphine Sulfate ___ 7.5-15 mg PO Q6H:PRN Pain - Moderate 
17. Omeprazole 40 mg PO DAILY 
18. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
19. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
20. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID:PRN constipation  
3.  Morphine Sulfate ___ 7.5-15 mg PO Q6H:PRN Pain - Moderate  
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Enoxaparin Sodium 40 mg SC Q24H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
6.  Amitriptyline 20 mg PO QHS insomnia  
7.  ARIPiprazole 4 mg PO QPM  
8.  Calcium Carbonate 500 mg PO QID:PRN abd pain  
9.  Diazepam 5 mg PO Q8H:PRN muscle spasm  
10.  DULoxetine 120 mg PO DAILY  
11.  Fentanyl Patch 25 mcg/h TD Q72H  
12.  Gabapentin 600 mg PO QHS  
13.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

14.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
15.  Loratadine 10 mg PO DAILY  
16.  LORazepam 0.5 mg PO QHS:PRN insomnia  
17.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Failure to thrive
Pain
Ovarian cancer
Recent L hip fracture
Anxiety
 
Discharge Condition:
stable
Ambulatory
alert

 
Discharge Instructions:
Dear ___,

 It was a pleasure taking care of you at ___.
You were admitted as you were having uncontrolled pain and 
because your felt weak. We gave you scheduled pain medications 
round the clock and that seemed to control your pain. 

 thank you for allowing us to care for you.

Sincerely,
___ MD
 
Followup Instructions:
___